* OVERALL BEST CANDIDATE: 00_Phase_2_60V_PoE_to_12V_Buck_5_1_g4_cand2_b2
* FITNESS SCORE: 0.5615
*
* Generated: 2026-06-02T15:40:36
* Constraint: Phase 2: 60V PoE to 12V (Buck - 5:1)
*   vin_min = 50
*   vin_max = 70
*   vout_target = 12
*   efficiency_target = 0.88
*   power_in = 100
* Candidate: 11 of 12
* Grouped name: g4_cand2
*
* 50V to 12V Buck, 100W
Vin in 0 50
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 220u
Rload out 0 1.44
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
